US08247403B2
(1) tert-butyl 8-[(3S)-3-methylmorpholin-4-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 6-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (500 mg, 1.52 mmol), (3S)-3-methylmorpholine p-toluenesulfonate (416 mg, 1.52 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl(X-phos) (58.0 mg, 0.122 mmol), tris(dibenzylideneacetone)dipalladium(0) (27.8 mg, 0.0304 mmol), sodium tert-butoxide (365 mg, 3.80 mmol) and toluene (6 ml) was stirred under an argon atmosphere at 100° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (420 mg, 79.2%) as an oil.

reactant | tert-butyl 6-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.52 mmol, 500 mg | BrC1=CC=CC2=C1CN(CCO2)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | (3S)-3-methylmorpholine p-toluenesulfonate | 1.52 mmol, 416 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C[C@@H]1NCCOC1
reactant | sodium tert-butoxide | 3.80 mmol, 365 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0304 mmol, 27.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | tert-butyl 8-[(3S)-3-methylmorpholin-4-yl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 420 mg, 79.2% | C[C@@H]1N(CCOC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C19H28N2O4
